US05391743
IV. Synthesis of 7-Hydroxy-8-nitroisoquinoline
To a 300 ml round bottom flask is added 14.5 g (0.1 mole) of 7-hydroxyisoquinoline and 100 ml of warmed tetramethylene sulfone. The brown slurry is stirred and to it is added portionwise 18.6 g (0.14 mole) of nitronium tetrafluoroborate with cooling (ice bath). The reaction is stirred for 3 hours. The reaction is then quenched with 100 ml of methanol, evaporated to dryness and triturated twice with ether to precipitate a dark solid (19.0 g, 100%).

reactant | 7-hydroxyisoquinoline | 0.1 mole, 14.5 g | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | nitronium tetrafluoroborate | 0.14 mole, 18.6 g | F[B-](F)(F)F.O=[N+]=O
solvent | tetramethylene sulfone | 100 ml | C1CCCS1(=O)=O | C4H8O2S
product | 7-Hydroxy-8-nitroisoquinoline | OC1=CC=C2C=CN=CC2=C1[N+](=O)[O-] | C9H6N2O3
